US06150377
A solution of 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1H-quinolin-2-one (9.68 g, 19.9 mmol), prepared as described in PCT international patent application publication number WO 97/21701 (published Jun. 19, 1997) (3.10 g, 7.87 mmol) in DMF (70 mL) was treated with cesium carbonate (23.1 g, 19.9 mmol) and (bromomethyl)cyclopropane (5.37 g, 39.8 mmol). The reaction mixture was stirred at room temperature for 12 hours, diluted with dichloromethane (75 mL), and washed with 1N HCl (2×50 mL) and brine (100 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated in vacuo to give a black residue. Purification by flash column chromatography (silica, ethyl acetate:petroleum ether 1:9-3:7) gave 6-(4-Chloro-benzoyl)-1-cyclopropylmethyl4-(3-iodo-phenyl)-1H-quinolin-2-one (6.79 g, 63%) as a yellow solid.

reactant | 6-(4-Chloro-benzoyl)-4-(3-iodo-phenyl)-1H-quinolin-2-one | 19.9 mmol, 9.68 g | ClC1=CC=C(C(=O)C=2C=C3C(=CC(NC3=CC2)=O)C2=CC(=CC=C2)I)C=C1 | C22H13ClINO2
reactant | cesium carbonate | 19.9 mmol, 23.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (bromomethyl)cyclopropane | 39.8 mmol, 5.37 g | BrCC1CC1 | C4H7Br
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 6-(4-Chloro-benzoyl)-1-cyclopropylmethyl4-(3-iodo-phenyl)-1H-quinolin-2-one | 6.79 g, 63% | ClC1=CC=C(C(=O)C=2C=C3C(=CC(N(C3=CC2)CC2CC2)=O)C2=CC(=CC=C2)I)C=C1 | C26H19ClINO2
